US05344843
A mixture of 4-[[2-(2-anthracenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.615 g) in hot tetrahydrofuran (100 mL) was treated with 1N sodium hydroxide (4 mL) and diluted with water. The resulting solids were recovered by filtration and stirred in a mixture of dichloromethane and excess 2N hydrochloric acid until the solids dissolved. The organic layer was separated, dried (Na2SO4), filtered, and evaporated to give crude product. Crystallization from acetone-hexane gave 0.45 g of 4-[[2-(2-anthracenyloxy) ethyl]oxy]-alpha-oxobenzene-acetic acid as a colorless solid, mp 213°-214° C.

reactant | 4-[[2-(2-anthracenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.615 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC3=CC=CC=C3C=C2C=C1)=O)=O | C25H20O5
reactant | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[[2-(2-anthracenyloxy) ethyl]oxy]-alpha-oxobenzene-acetic acid | 0.45 g | C1=C(C=CC2=CC3=CC=CC=C3C=C12)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C24H18O5
